US03968243
N-p-iodobenzyl-N',N"-dimethylguanidine sulphate was dissolved in water, strongly basified with sodium hydroxide, and the base extracted with ether. The ether, on evaporation, gave an oil which was dissolved in water, neutralised with dilute hydriodic acid and evaporated, to yield N-p-iodobenzyl-N',N"-dimethylguanidine hydriodide, m.p. 235°-239°, after recrystallisation from methanol-ether.

reactant | N-p-iodobenzyl-N',N"-dimethylguanidine sulphate | S(=O)(=O)(O)O.IC1=CC=C(CNC(=NC)NC)C=C1
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydriodic acid | I | HI
solvent | water | O | H2O
product | N-p-iodobenzyl-N',N"-dimethylguanidine hydriodide | I.IC1=CC=C(CNC(=NC)NC)C=C1 | InChI=1S/C10H14IN3.HI/c1-12-10(13-2)14-7-8-3-5-9(11)6-4-8;/h3-6H,7H2,1-2H3,(H2,12,13,14);1H
